US08937090B2
6) N-benzyl-β-alanine
Ten grams of β-alanine ethyl ester hydrochloride and 9 g of benzaldehyde were added to 100 mL of toluene and heated and refluxed using a Dean-Stark trap. After heating and stirring for three hours, the product was cooled in air, and the reaction system was concentrated under reduced pressure. 200 mL of ethanol were added to the resulting residue, and 5 g of sodium borohydride were added while stirring under freezing conditions. After stirring over a period of one night, hydrochloric acid was added and the pH was brought to 2 or less. After filtering, the product was concentrated under reduced pressure, the resulting residue was dissolved in 200 mL THF-water, and 2 g of sodium hydroxide were added. After stirring for six hours at room temperature, the product was neutralized with Amberlite IR120B[H] and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was recrystallized to obtain 8.2 g f the desired product (yield of 70%).

reactant | β-alanine ethyl ester hydrochloride | Ten grams | Cl.C(C)OC(CCN)=O
reactant | benzaldehyde | 9 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-β-alanine | yield of 70% | C(C1=CC=CC=C1)NCCC(=O)O | C10H13NO2
